US07238808B2
2-[5-(4-Chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazole-5-sulfonic acid amide
The title compound was prepared from 5-(4-chloro-3-methyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.11) (336 mg, 1.0 mmol) and 2-chloro-thiazole-5-sulfonamide (199 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (209 mg, 42%). MS (ISN) 496.0 [(M−H)−]; mp 123° C.

reactant | 5-(4-chloro-3-methyl-phenyl)-3-ethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 336 mg | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#C)C | C16H9ClF3N3
reactant | 2-chloro-thiazole-5-sulfonamide | 1.0 mmol, 199 mg | ClC=1SC(=CN1)S(=O)(=O)N | C3H3ClN2O2S2
product | 2-[5-(4-Chloro-3-methyl-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazole-5-sulfonic acid amide | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2SC(=CN2)S(=O)(=O)N)C | C19H11ClF3N5O2S2
